US06756378B2
To a stirred solution of N-tert-butoxycarbonyl-2-methylproline (1.10 g, 4.80 mmol) in THF (20 mL) was added dropwise BH3—SMe2 (0.546 mL, 5.76 mmol) at room temp. After the resulting mixture was stirred for 6 hr at 80° C., the mixture was evaporated in vacuo. The residue was diluted with MeOH, washed with n-hexane (3×), and evaporated in vacuo to afford 0.648 g (60%) N-tert-butoxycarbonyl-2-hydroxymethyl-2-methylpyrrolidine as a yellow syrp. 1H-NMR (CDCl3) δ1.47 (s, 9H), 1.76-2.05 (m, 4H), 3.28-3.48 (m, 2H), 3.66 (m, 2H, d).

reactant | N-tert-butoxycarbonyl-2-methylproline | 4.80 mmol, 1.10 g | C(C)(C)(C)OC(=O)N1[C@](C(=O)O)(CCC1)C | C11H19NO4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-2-hydroxymethyl-2-methylpyrrolidine | 0.648 g, 60% | C(C)(C)(C)OC(=O)N1C(CCC1)(C)CO | C11H21NO3
